.SUBCKT LT2179A    3 2 7 4 6
X_LT2179A 3 2 7 4 6 LT1178A
** nested subcircuit: LT1178A
.SUBCKT LT1178A    3 2 7 4 6
* INPUT
RC1 4 80 8.842E+04
RC2 4 90 8.842E+04
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 6.000E+02
RB2 3 103 6.000E+02
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4 4.000E-01
C1 80 90 8.660E-12
RE1 10 12 1.933E+04
RE2 11 12 1.933E+04
IEE 7 12 7.560E-07
RE 12 0 2.646E+08
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 8.984E-11
GA 8 0 80 90 1.131E-05
R2 8 0 1.000E+05
C2 1 8 3.000E-11
GB 1 0 8 0 5.780E+02
* OUTPUT 
RO1 1 110 1.000E+02
RO2A 1 0 1.083E+03
RO2B 6 110 8.170E+02
EC 17 0 110 0 1 
D1 1 17 DM1 
D2 17 1 DM1 
D3 110 13 DM2 
D4 14 110 DM2 
D5 6 110 DM2 
D6 110 6 DM2 
VC 7 13 1.480E+00
VE 14 4 7.806E-01
IP 7 4 1.424E-05
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.240E+02)
.MODEL QM2 PNP (IS=8.009E-16 BF=1.261E+02)
.MODEL DM1 D (IS=6.881E-16)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LT1178A
** end nested subcircuit: LT1178A
.ENDS LT2179A
